US07595401B2
Synthesis of (S)-2-(2-Methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of (S)-2-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (0.300 g, 1.30 mmol) in dichloromethane (5 mL) was added methane sulfonylchloride 0.304 mL, 3.9 mmol) and triethylamine (0.547 mL, 3.9 mmol) at rt for 1-16 h. The reaction mixture was diluted with dichloromethane and washed with NaHCO3 (10%, W/V), followed by water. The dichloromethane layer was dried (Na2SO4), filtered and the solvent was evaporated to dryness. The product was sufficiently pure for the next step and was used without any further purification. LC-MS [M+Na] 329.9

reactant | (S)-2-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.30 mmol, 0.300 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCO | C12H23NO3
reactant | methane sulfonylchloride | 3.9 mmol, 0.304 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.9 mmol, 0.547 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-2-(2-Methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCOS(=O)(=O)C | C13H25NO5S
